US09403813B2
Br2 (0.74 mL, 14.4 mmol) was added to a rt suspension of 3-methoxy-4-methylbenzoic acid (2.00 g, 12 mmol) in acetic acid (15 mL) and water (15 mL), then the mixture was heated to 60° C. for 2 h. The mixture was allowed to reach rt and the solids were filtered off and rinsed with cold water (40 mL) to yield 2-bromo-5-methoxy-4-methylbenzoic acid as a white solid which was used further without purification. LC-MS A: tR=0.76 min, [M+H]+=no ionization. 1H NMR (DMSO) δH: 7.49 (s, 1H), 7.29 (s, 1H), 3.82 (s, 3H), 2.17 (s, 3H).

reactant | Br2 | 14.4 mmol, 0.74 mL | BrBr | Br2
reactant | 3-methoxy-4-methylbenzoic acid | 12 mmol, 2.00 g | COC=1C=C(C(=O)O)C=CC1C | C9H10O3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | 15 mL | O | H2O
product | 2-bromo-5-methoxy-4-methylbenzoic acid | BrC1=C(C(=O)O)C=C(C(=C1)C)OC | C9H9BrO3
